US08283354B2
A suspension of 6-fluoro-2-(2-methoxyphenyl)-3H-quinazolin-4-one (14.0 g, 52 mmol), N,N-dimethylaniline (6.6 mL, 52 mmol), and phosphorus oxychloride (4.8 mL, 52 mmol) in benzene (100 mL) was heated at reflux until a clear, dark solution was obtained (1 hour). The reaction mixture was cooled to room temperature, and the volume was reduced under reduced pressure. The black, oily residue was poured into 300 g of ice. Dichloromethane (600 mL) was added with vigorous stirring, and the temperature was kept below 5° C. at all times. The pH was monitored, and aqueous 1 N sodium hydroxide was added until the pH was 10-11. The mixture was stirred for one hour at a temperature below 5° C., and the pH was kept between 10-11 by addition of 1 N aqueous sodium hydroxide. The layers were separated, and the organic layer was washed with ice cold 1 N aqueous sodium hydroxide (2×200 mL). Heptanes (300 mL) were added to the organic layer. This mixture was filtered through a short plug of silica gel and eluted with dichloromethane/heptanes (2:1). All fractions containing product were combined and evaporated to dryness. The residue was triturated with heptanes to yield 4-chloro-6-fluoro-2-(2-methoxyphenyl)-quinazoline (11.5 g, 76%) as a white solid.

reactant | 6-fluoro-2-(2-methoxyphenyl)-3H-quinazolin-4-one | 52 mmol, 14.0 g | FC=1C=C2C(NC(=NC2=CC1)C1=C(C=CC=C1)OC)=O | C15H11FN2O2
reactant | N,N-dimethylaniline | 52 mmol, 6.6 mL | CN(C1=CC=CC=C1)C | C8H11N
reactant | phosphorus oxychloride | 52 mmol, 4.8 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | sodium hydroxide | 1 N | [OH-].[Na+]
reactant | sodium hydroxide | 1 N | [OH-].[Na+]
solvent | benzene | 100 mL | C1=CC=CC=C1 | C6H6
solvent | Dichloromethane | 600 mL | ClCCl | CH2Cl2
product | 4-chloro-6-fluoro-2-(2-methoxyphenyl)-quinazoline | 11.5 g, 76% | ClC1=NC(=NC2=CC=C(C=C12)F)C1=C(C=CC=C1)OC | C15H10ClFN2O
